US04269847
At room temperature, a solution of 2.16 g. of 3-chloroperbenzoic acid in 150 ml. of chloroform is added dropwise to a solution of 3.71 g. of [4,5-bis(4-methoxyphenyl)]-2-(2-hydroxy-1-methylethylthio)imidazole in 200 ml. of chloroform. The mixture is stirred overnight at room temperature and washed with saturated sodium bicarbonate solution. The organic solution is dried over sodium sulfate and concentrated under vacuum. The residue is purified by chromatography on 200 g. of silica gel with ethyl acetate as the eluent. After evaporation of the solvent, 2.67 g. of [4,5-bis(4-methoxyphenyl)]-2-(2-hydroxy-1-methylethylsulfinyl)imidazole is obtained as an amorphous foam.

reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | [4,5-bis(4-methoxyphenyl)]-2-(2-hydroxy-1-methylethylthio)imidazole | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC(CO)C | C20H22N2O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [4,5-bis(4-methoxyphenyl)]-2-(2-hydroxy-1-methylethylsulfinyl)imidazole | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S(=O)C(CO)C | C20H22N2O4S
